US05856333
9-bromo camptothecin
2.15 g of NaNO2 in 40 mL of H2O were dropped at 5° C. into a solution of 9 g of 9-amino-camptothecin in 850 mL of 16% HBr. After 1 hr at r.t. the solution was dropped in a flask containing 19 g of CuBr in 200 mL of 16% HBr at 70° C. The reaction was allowed to stay at 70° C. for 2 hr, then it was poured in cold water. The precipitate was filtered and the mother liquors were extracted with CH2Cl2 ; the organic extract dried and evaporated was combined with the precipitate and purified by flash chromatography (eluent: CH2Cl2 /CH3OH=95/5) to give 8.19 g of the title product. (HPLC assay: 97.3%) 1H-NMR 400 MHz (DMSO-d6): d=8.87 (s, 1H), 8.20 (d, J=8.5, 1H), 8.06 (d, J=7.32, 1H), 7.81-7.75 (m, 1H), 7.35 (s, 1H), 6.53 (s, 1H), 5.42 (s, 2H), 5.32 (s, 2H), 1.89-1.82 (m, 2H), 0.87 (t, J=7.32, 3H). MS (FD): M+ =427.

reactant | NaNO2 | 2.15 g | N(=O)[O-].[Na+]
reactant | 9-amino-camptothecin | 9 g | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC=4C=C5C(=CC=CC5=NC4C3=C2)N)O | C20H17N3O4
reactant | HBr | 850 mL | Br | BrH
reactant | HBr | 200 mL | Br | BrH
solvent | H2O | 40 mL | O | H2O
product | 9-bromo camptothecin | 8.19 g | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC=C(C5=C4)Br)O | C20H15BrN2O4
